US04311698
To a solution of 11.8 g (75 m mol) of N-Acetyl-DL-proline and 10.5 ml (75 m mol) of triethylamine in 150 ml dichloromethane at -15° C., is added 9.75 ml (75 m mol) of isobutyl chloroformate. The reaction mixture is stirred at about -10° C. for 30 min. To this reaction mixture is added a cold solution of 11.5 g (50 m mol) of 6-(4-aminophenyl)-1,2-dihydro-2-oxonicotinic acid and 7.7 ml (55 m mol) triethylamine in 200 ml of N,N-dimethylacetamide, which is stirred while cooling in an ice bath for 3 hrs, then overnight at room temperature. The reaction mixture is evaporated to dryness, the residue is triturated with water, and the solid collected by filtration. The solid is washed with water and acetonitrile and dried to yield 13.2 g of 6-[4-(N-Acetyl-DL-prolylamino)phenyl]-1,2-dihydro-2-oxonicotinic acid, m.p. 279°-281° dec.

reactant | N-Acetyl-DL-proline | 11.8 g | C(C)(=O)N1C(C(=O)O)CCC1 | C7H11NO3
reactant | triethylamine | 10.5 ml | C(C)N(CC)CC | C6H15N
reactant | isobutyl chloroformate | 9.75 ml | ClC(=O)OCC(C)C | C5H9ClO2
reactant | 6-(4-aminophenyl)-1,2-dihydro-2-oxonicotinic acid | 11.5 g | NC1=CC=C(C=C1)C=1NC(C(C(=O)O)=CC1)=O | C12H10N2O3
reactant | triethylamine | 7.7 ml | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 150 ml | ClCCl | CH2Cl2
solvent | N,N-dimethylacetamide | 200 ml | CN(C(C)=O)C | C4H9NO
product | 6-[4-(N-Acetyl-DL-prolylamino)phenyl]-1,2-dihydro-2-oxonicotinic acid | 13.2 g | C(C)(=O)N1C(C(=O)NC2=CC=C(C=C2)C=2NC(C(C(=O)O)=CC2)=O)CCC1 | C19H19N3O5
